US04331676
A solution of 2.86 g (~24 mmol) of thionyl chloride in 20 ml of dioxan is added dropwise to a suspension, stirred at room temperature, of 12 g of poly-Hunig base in a solution of 2.83 g (7.59 mmol) of 2-[(4R)-4-acetylthio-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester in 100 ml of dioxan. The mixture is stirred for 1.5 hours at room temperature and filtered off from the poly-Hunig base, which is subsequently washed with dioxan. The filtrate is concentrated in vacuo. The 2-[(4R)-4-acetylthio-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester obtained is used in the next stage in crude form.

reactant | thionyl chloride | ~24 mmol, 2.86 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[(4R)-4-acetylthio-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester | 7.59 mmol, 2.83 g | [N+](=O)([O-])C1=CC=C(COC(C(O)N2C(C[C@H]2SC(C)=O)=O)=O)C=C1 | C14H14N2O7S
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[(4R)-4-acetylthio-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(Cl)N2C(C[C@H]2SC(C)=O)=O)=O)C=C1 | C14H13ClN2O6S
